US05374641
To 0.19 g (0.74 mM) of methyl 4-[2-amino-2-(3-pyridyl)ethyl]benzoate in 10ml of dichloromethane in solution were added triethylamine (0.13 ml, 0.9 mM) and p-chlorobenzenesulfonyl chloride (0.19 g, 0.9 mM), and stirred overnight at room temperature. After completion of the reaction, water was poured into the reaction mixture, followed by extraction of dichloromethane. The organic phase was then washed in saturated aqueous sodium chloride solution and dried over magnesium sulfate, to distill off the solvent. The residue was subjected to chromatography on a silica gel column, which was then eluted with chloroform to yield 0.11 g of methyl 4-[2-(4-chlorobenzenesulfonamido)-2-(3-pyridyl)ethyl]benzoate. The spectrometric data thereof supports the structure of [26] as follows.

reactant | methyl 4-[2-amino-2-(3-pyridyl)ethyl]benzoate | 0.74 mM, 0.19 g | NC(CC1=CC=C(C(=O)OC)C=C1)C=1C=NC=CC1 | C15H16N2O2
reactant | triethylamine | 0.9 mM, 0.13 ml | C(C)N(CC)CC | C6H15N
reactant | p-chlorobenzenesulfonyl chloride | 0.9 mM, 0.19 g | ClC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4Cl2O2S
reactant | water | O | H2O
solvent | dichloromethane | 10ml | ClCCl | CH2Cl2
product | methyl 4-[2-(4-chlorobenzenesulfonamido)-2-(3-pyridyl)ethyl]benzoate | 0.11 g | ClC1=CC=C(C=C1)S(=O)(=O)NC(CC1=CC=C(C(=O)OC)C=C1)C=1C=NC=CC1 | C21H19ClN2O4S
